US07214673B2
2-Phenethyl-piperazine
Combine 1,4-dibenzyl-2-styryl-piperazine (289 mg, 0.78 mmol), palladium hydroxide (36 mg, 20 wt. % on carbon), and ethanol (100 mL) in a hydrogenation vessel. Shake and heat at 60° C. under a hydrogen atmosphere (60 psi). After 24 hours, cool to ambient temperature and filter the palladium hydroxide. Concentrate the filtrate and purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (20%) as the eluent to give the title compound: mass spectrum (ion spray): m/z=191 (M+1); 1H NMR (DMSO-d6): δ7.11–7.31 (m, 5H), 2.82–2.39 (m, 8H), 2.18 (dd, 1H), 1.48 (dd, 2H).

reactant | 1,4-dibenzyl-2-styryl-piperazine | 0.78 mmol, 289 mg | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=CC1=CC=CC=C1 | C26H28N2
catalyst | palladium hydroxide | 36 mg | [OH-].[Pd+2].[OH-]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-Phenethyl-piperazine | C(CC1=CC=CC=C1)C1NCCNC1 | C12H18N2
